US08440666B2
Ethyl 2-{5-methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate
2-{5-Methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic acid (105 mg, 0.299 mmol) in tetrahydrofuran (1 mL) was stirred with 1,1-carbonyldiimidazole (145 mg, 0.897 mmol) at room temperature for 1 hour and then with ethanol (0.2 mL) at room temperature for 1 hour. After completion of the reaction, ethyl acetate was added, and the resulting organic layer was washed with 1 M hydrochloric acid and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate. The resulting residue was purified by silica gel chromatography (hexane/ethyl acetate=1/1) to give the desired product (93 mg, 82% yield).

reactant | 2-{5-Methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic acid | 0.299 mmol, 105 mg | CSC1=C(C=NN(C1=O)CC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C17H25N3O3S
reactant | ethanol | 0.2 mL | C(C)O | C2H6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Ethyl 2-{5-methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate | 93 mg, 82% yield | CSC1=C(C=NN(C1=O)CC(=O)OCC)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C19H29N3O3S
